US09388189B2
(S)-2-(1-((5-(3-(5-Amino-1,3,4-oxadiazol-2-yl)-5-hydroxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(3-(5-Amino-1,3,4-oxadiazol-2-yl)-5-hydroxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (40 mg, 0.06 mmol) was treated with trifluoroacetic acid (1 ml, 13 mmol) and a solution of ammonia (7N in methanol, 1 ml, 59 mmol) according to the method described in Example 27. The residue was purified by reverse phase chromatography using SP1® Purification System to give 5 mg (15% yield) of the title compound. Purity 98%.

reactant | (S)-2-(1-((5-(3-(5-Amino-1,3,4-oxadiazol-2-yl)-5-hydroxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.06 mmol, 40 mg | NC1=NN=C(O1)C=1C=C(C=C(C1)O)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C35H38N10O4Si
reactant | trifluoroacetic acid | 13 mmol, 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 59 mmol, 7N, 1 ml | N | H3N
product | (S)-2-(1-((5-(3-(5-Amino-1,3,4-oxadiazol-2-yl)-5-hydroxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 5 mg, 15% yield | NC1=NN=C(O1)C=1C=C(C=C(C1)O)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C29H24N10O3
